US03992375
To a solution containing 1.45 parts of 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carboxylic acid hydrazide dissolved in 50 parts by volume of benzene is added successively0.7 part by volume of triethylamine and 0.81 part of cinnamoyl chloride. The resulting reaction mixture is stirred at room temperature for about 48hours, then is washed successively with dilute hydrochloric acid, dilute aqueous sodium hydroxide, water and saturated aqueous sodium chloride. Drying over anhydrous sodium sulfate followed by removal of the solvent bydistillation under reduced pressure affords a residue, which is purified byadsorption on a silicic acid chromatographic column and elution with ethyl acetate-benzene mixtures. The 10% acetate in benzene eluate, upon removal of the solvents, affords 1-cinnamoyl-2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine.

reactant | 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carboxylic acid hydrazide | ClC1=CC2=C(OC3=C(CN2C(=O)NN)C=CC=C3)C=C1 | C14H12ClN3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-cinnamoyl-2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine | C(C=CC1=CC=CC=C1)(=O)NNC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C23H18ClN3O3
